US09376694B2
D-phenylglycine was produced with a conversion of 98% by conducting reactions using 50 mL of a mixture of 0.3 M phenylformate, 20 mM D-alanine, 0.45 M isopropylamine, 0.5 mM PLP, 50 mM phosphate pH 8, 35 U/mL DATA and 30 U/mL ARmutTA. 2.02 g of pure D-phenylglycine was obtained through purification based on solubility.

reactant | phenylformate | 0.3 M | C1(=CC=CC=C1)C(=O)[O-]
reactant | D-alanine | 20 mM | N[C@H](C)C(=O)O | C3H7NO2
reactant | isopropylamine | 0.45 M | C(C)(C)N | C3H9N
reactant | phosphate | 50 mM, pH 8 | P(=O)([O-])([O-])[O-]
product | D-phenylglycine | 2.02 g | C1=CC=C(C=C1)[C@H](C(=O)O)N | C8H9NO2
